US06265575B1
Part A. 1-(trans-4-Bromocinnamoyl)pyrrolidine
A mixture of 5.0 g (22.0 mmol) of 4-bromocinnamic acid, 6 mL of oxalyl chloride and 3 drops of DMF in 40 mL of CH2Cl2 was heated to gentle reflux until gas evolution ceased. The volatiles were removed in vacuo and the residue was taken up in 50 mL of CH2Cl2. Pyrrolidine (10 mL; 120 mmol) was added and the mixture was stirred overnight at room temperature. The reaction mixture was evaporated in vacuo and chromatographed to afford 5.36 g (19.1 mmol; 87%) of the title compound.

reactant | 4-bromocinnamic acid | 22.0 mmol, 5.0 g | BrC1=CC=C(C=CC(=O)O)C=C1 | C9H7BrO2
reactant | oxalyl chloride | 6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyrrolidine | 120 mmol, 10 mL | N1CCCC1 | C4H9N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(trans-4-Bromocinnamoyl)pyrrolidine | BrC1=CC=C(/C=C/C(=O)N2CCCC2)C=C1 | C13H14BrNO
